US05993879
2-Pentanol (176 g, 2.0 mol, Aldrich) and sodium acetate (18 g, 10 Aldrich) were heated to 90° C. and then acetic anhydride (240 ml, BDH GPR) was added over a 1 hour period at 100-110° C. The mixture was heated to reflux for 4 hours. The reaction mixture was then cooled, washed with water, washed with aqueous sodium bicarbonate to neutrality, dried over sodium sulfate, and then concentrated. Fractional distillation of the crude residue under vacuum provided 1-methylbutyl acetate (80-81°/140-145 mm Hg, 77% yield), the structure of which was confirmed by mass spectroscopy, nuclear magnetic resonance spectroscopy, and infra red spectroscopy (not shown).

reactant | 2-Pentanol | 2.0 mol, 176 g | CC(CCC)O | C5H12O
reactant | sodium acetate | 18 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 240 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 1-methylbutyl acetate | 77% yield | C(C)(=O)OC(CCC)C | C7H14O2
